US06462198B1
N-(5-Trifluoromethyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide.
The title compound, white solid, m.p. 149-150° C. and MS: m/e=347.2 (M+) was prepared in accordance with the general method of example 44a from 5-trifluoromethyl[1,3,4]oxadiazol-2-ylamine and 2,2-diphenylacetic acid chloride.

reactant | 5-trifluoromethyl[1,3,4]oxadiazol-2-ylamine | FC(C1=NN=C(O1)N)(F)F | C3H2F3N3O
reactant | 2,2-diphenylacetic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
product | N-(5-Trifluoromethyl-[1,3,4]oxadiazol-2-yl)-2,2-diphenyl-acetamide | FC(C1=NN=C(O1)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)(F)F | C17H12F3N3O2
